US04673746
E-2'-fluoro-2-hydroxy-4-methoxy-3-methylbenzophenone O-acetyl oxime (22.0 g) is dissolved in 100 ml of DMF and added to a suspension of 2.5 g NaH in 100 ml DMF. An ice bath is applied to keep the reaction temperature <30° C. After 40 minutes the reaction is poured into H2O and extracted with ether. After washing well with H2O, the ether is dried and evaporated to give a crystalline product that is washed with cold hexane to give 3-(2-fluorophenyl)-6-methoxy-7-methyl-1,2-benzisoxazole, mp 105°-108° C.

reactant | E-2'-fluoro-2-hydroxy-4-methoxy-3-methylbenzophenone O-acetyl oxime | 22.0 g | C(C)(=O)O\N=C(/C1=C(C(=C(C=C1)OC)C)O)\C1=C(C=CC=C1)F | C17H16FNO4
reactant | NaH | 2.5 g | [H-].[Na+]
reactant | H2O | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3-(2-fluorophenyl)-6-methoxy-7-methyl-1,2-benzisoxazole | FC1=C(C=CC=C1)C1=NOC2=C1C=CC(=C2C)OC | C15H12FNO2
